US07919506B2
Preparation 6: (3,5-Bis-trifluoromethyl-benzyl)-(2-bromo-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (3.9 g, 12 mmol) in THF (50 mL) at room temperature was added potassium tert-butoxide (KOtBu) (13.2 ml of 1M solution, 13.2 mmol) followed by 1-bromo-2-(bromomethyl)-4-(trifluoromethyl)benzene (4 g, 12.6 mmol). The mixture was stirred at room temperature for 16 hours. Additional KOtBu in THF (13.2 mL of 1M solution, 13.2 mmol) was added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was partitioned between water (50 mL) and ethyl acetate (3×50 mL). The combined organic layers were washed with saturated NaCl (50 mL), dried (MgSO4) and concentrated. The residue was purified by flash chromatography (silica gel) (eluted with 3:1 hexane-ethyl acetate) to yield the title compound (4.72 g). 1H NMR (400 MHz, CDCl3) δ 4.2 (s, 3H) 4.8 (s, 2H) 4.9 (s, 2H) 7.4 (dd, J=8.2, 1.7 Hz, 1H) 7.5 (d, J=1.7 Hz, 1H) 7.7 (m, 3H) 7.8 (s, 1H). MS (ES+) Calc: 561.02, Found: 561.7 (M+1).

reactant | N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 12 mmol, 3.9 g | FC(C=1C=C(CNC=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C11H9F6N5
reactant | potassium tert-butoxide | 13.2 mmol, 1M, 13.2 ml | CC(C)([O-])C.[K+]
reactant | 1-bromo-2-(bromomethyl)-4-(trifluoromethyl)benzene | 12.6 mmol, 4 g | BrC1=C(C=C(C=C1)C(F)(F)F)CBr | C8H5Br2F3
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 13.2 mmol, 1M, 13.2 mL | C1CCOC1 | C4H8O
product | (3,5-Bis-trifluoromethyl-benzyl)-(2-bromo-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 4.72 g | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)Br)C=C(C1)C(F)(F)F)(F)F | C19H13BrF9N5
